US07790709B2
Preparation of (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (111 mg, 67%) was prepared as a pale, yellow solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.60 (br s, 1H), 8.40 (s, 1H), 7.87 (d, J=7.4 Hz, 1H), 7.73 (d, J=6.9 Hz, 1H), 7.51 (d, J=15.3 Hz, 1H), 7.42-7.15 (m, 3H), 5.12-4.88 (m, 2H), 3.91-3.35 (m, 12H), 3.15 (s, 3H), 2.93 (s, 1H), 2.41 (s, 3H); MS (ESI) m/e 437 (M+H)+;

reactant | (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid | NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCOCC1 | C13H17N3O3
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide hydrochloride | 111 mg, 67% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC1=C(C2=C(S1)C=CC=C2)C)C)CN2CCOCC2 | InChI=1S/C24H28N4O2S.ClH/c1-17-20-5-3-4-6-21(20)31-22(17)16-27(2)23(29)8-7-18-13-19(24(25)26-14-18)15-28-9-11-30-12-10-28;/h3-8,13-14H,9-12,15-16H2,1-2H3,(H2,25,26);1H/b8-7+;
